US06168838A
9-Fluoro-2-hexyloxy-7-octylphenanthrene
From 9-fluoro-7-octylphenanthren-2-ol by reaction with 1-bromohexane and sodium hydride in abs. DMF.

reactant | 9-fluoro-7-octylphenanthren-2-ol | FC=1C2=CC(=CC=C2C=2C=CC(=CC2C1)O)CCCCCCCC | C22H25FO
reactant | 1-bromohexane | BrCCCCCC | C6H13Br
reactant | sodium hydride | [H-].[Na+]
solvent | DMF | CN(C)C=O | C3H7NO
product | 9-Fluoro-2-hexyloxy-7-octylphenanthrene | FC=1C2=CC(=CC=C2C=2C=CC(=CC2C1)OCCCCCC)CCCCCCCC | C28H37FO
